US09403839B2
To a solution of tert-butyl 10-(4-fluorophenyl)-8-oxo-11-oxa-3-azaspiro[5.5]undecane-3-carboxylate (2.00 g, 5.50 mmol) in MeOH (50 mL) was added cerium trichloride (1.49 g, 6.05 mmol). The mixture was stirred for 5 minutes prior to the addition of sodium borohydride (250 mg, 6.60 mmol). The reaction mixture was allowed to stir at room temperature for 1 hour. Saturated ammonium chloride (50 mL) was added to quench the reaction. It was stirred for 5 minutes, and extracted with ethyl acetate (3×75 mL). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography (20-40% ethyl acetate/hexane) to provide tert-butyl cis-(4-fluorophenyl)-8-hydroxy-11-oxa-3-azaspiro[5.5]undecane-3-carboxylate (749 mg) and tert-butyl trans-10-(4-fluorophenyl)-8-hydroxy-11-oxa-3-azaspiro[5.5]undecane-3-carboxylate (644 mg). Cis-isomer: 1H NMR (400 MHz, CDCl3) δ 7.39-7.33 (m, 2H), 7.03 (ddd, J=8.8, 5.8, 2.5 Hz, 2H), 4.94 (d, J=11.5 Hz, 1H), 4.37 (dd, J=6.1, 3.0 Hz, 1H), 3.76 (d, J=13.9 Hz, 2H), 3.27 (ddd, J=13.2, 10.2, 4.9 Hz, 1H), 3.10-2.98 (m, 1H), 2.69 (d, J=15.7 Hz, 1H), 1.96-1.89 (m, 1H), 1.71 (ddd, J=11.9, 11.0, 2.9 Hz, 2H), 1.64-1.55 (m, 4H), 1.55-1.48 (m, 1H), 1.44 (s, 9H). ESI-MS m/z calc. 365.20, found 366.3 (M+1)+; Retention time: 1.54 minutes (3 minute run). trans-isomer: 1H NMR (400 MHz, CDCl3) δ 7.38-7.31 (m, 2H), 7.03 (ddd, J=10.7, 5.9, 2.5 Hz, 2H), 4.58-4.50 (m, 1H), 4.13 (ddd, J=11.3, 6.8, 4.6 Hz, 1H), 3.82-3.72 (m, 2H), 3.26 (ddd, J=13.3, 10.4, 4.6 Hz, 1H), 3.07-2.96 (m, 1H), 2.23 (ddd, J=10.3, 4.4, 2.2 Hz, 1H), 2.12 (d, J=14.7 Hz, 1H), 1.96 (ddd, J=12.5, 4.6, 1.8 Hz, 1H), 1.70-1.58 (m, 2H), 1.55 (s, 1H), 1.49-1.43 (m, 9H), 1.43-1.27 (m, 2H). ESI-MS m/z calc. 365.20, found 366.5 (M+1)+. Retention time: 1.63 minutes (3 minute run).

reactant | tert-butyl 10-(4-fluorophenyl)-8-oxo-11-oxa-3-azaspiro[5.5]undecane-3-carboxylate | 5.50 mmol, 2.00 g | FC1=CC=C(C=C1)C1CC(CC2(CCN(CC2)C(=O)OC(C)(C)C)O1)=O | C20H26FNO4
reactant | cerium trichloride | 6.05 mmol, 1.49 g | [Cl-].[Cl-].[Cl-].[Ce+3]
reactant | sodium borohydride | 6.60 mmol, 250 mg | [BH4-].[Na+]
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | MeOH | 50 mL | CO | CH4O
product | tert-butyl trans-10-(4-fluorophenyl)-8-hydroxy-11-oxa-3-azaspiro[5.5]undecane-3-carboxylate | 644 mg | FC1=CC=C(C=C1)[C@H]1C[C@@H](CC2(CCN(CC2)C(=O)OC(C)(C)C)O1)O | C20H28FNO4
